US04001313
In a 200-ml autoclave were placed 22.9 grams (0.11 mole) of anhydrous sodium 5-m-xylene sulfonate, 9.7 grams (0.24 mole) of sodium amide and 80 ml of liquid ammonia in the same manner as in Example 1. The resultant mixture was heated at 150° C for 5 hours. The reaction pressure in the autoclave was 135 atm. during the reaction. After the ammonia was removed, 20 ml of water was added to the reaction mixture for hydrolysis. Thereafter the product was treated in the same manner as in Example 1, whereby 11.3 grams of sym. -m-xylidine boiling at 221° to 222° C was obtained. Yield was 84.4%

reactant | sodium 5-m-xylene sulfonate | 0.11 mole, 22.9 grams | C1(=CC(=CC(=C1)S(=O)(=O)[O-])C)C.[Na+]
reactant | sodium amide | 0.24 mole, 9.7 grams | [NH2-].[Na+]
reactant | ammonia | N | H3N
product | m-xylidine | Yield was 84.4% | CC1=CC(=C(C=C1)N)C | C8H11N
